US04353919
20 ml-portions of a mixture of 49.5 gm (0.24 mol) of O-ethyl (3-chlorophenyl)-thiocarbamate, 60 ml of ethanol, 350 ml of an aqueous 30% sodium hydroxide solution, and 300 ml of water were added at intervals of 5 minutes to a solution of 494 gm (1.5 mol) of potassium hexacyanoferrate (III) in 600 ml of water at 80°-90° C. After heating the mixture for 2 hours at 90° C., 200 gm (0.61 mol) of potassium hexacyanoferrate (III) were added again, and the mixture was heated for another 3 hours at 90° C. After cooling, the mixture was diluted with 3 liters of water, extracted exhaustively with ether, and the separated organic phase was washed with water and dried over sodium sulfate. The residue remaining after evaporation of the solvent was purified by chromatography on 500 gm of silica gel, using dichloromethane/petroleum ether (volume ratio of 1:1) for elution. The fractions containing the two principal products were combined and evaporated. The residual crystal sludge yielded, after two successive recrystallizations from petroleum ether, 7.5 gm of colorless crystals having a melting point of 74°-75° C., which consisted according to spectroscopic examination of 5-chloro-2-ethoxy-benzothiazole. For the purpose of isolating the desired 7-chloro-2-ethoxybenzothiazole, i.e. the substance with the lower Rf value, the combined mother liquors were chromatographed on 500 gm of silica gel, using petroleum ether/dichloromethane as the eluant. The 7-chloro-2-ethoxy-benzothiazole, a light yellow oil obtained after evaporation of the corresponding eluates, was used in the next step without further purification. Yield: 15.5 gm (32% of theory).

reactant | O-ethyl (3-chlorophenyl)-thiocarbamate | 0.24 mol, 49.5 gm | ClC=1C=C(C=CC1)NC(OCC)=S | C9H10ClNOS
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 600 ml | O | H2O
solvent | water | 3 liters | O | H2O
catalyst | potassium hexacyanoferrate (III) | 1.5 mol, 494 gm | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[Fe+3]
catalyst | potassium hexacyanoferrate (III) | 0.61 mol, 200 gm | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[Fe+3]
solvent | water | 300 ml | O | H2O
product | 7-chloro-2-ethoxybenzothiazole | ClC1=CC=CC=2N=C(SC21)OCC | C9H8ClNOS
